US06083961
A suspension of 3-methoxy-2-nitrobenzoic acid (10.0 g), triethylamine (5.13 g) and diphenylphosphoryl azide (14 g) in benzene (100 ml) was refluxed for 40 minutes, and ethanol (2.57 g) was added thereto, and the mixture was refluxed for 30 minutes. After cooling, the solvent was removed in vacuo, and the residue was dissolved in ethyl acetate. Insoluble material was filtered off, and the filtrate was washed with saturated sodium bicarbonate solution, water and brine, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=4:1, v/v) to give ethyl N-(3-methoxy-2-nitrophenyl)carbamate (7.23 g).

reactant | 3-methoxy-2-nitrobenzoic acid | 10.0 g | COC=1C(=C(C(=O)O)C=CC1)[N+](=O)[O-] | C8H7NO5
reactant | triethylamine | 5.13 g | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 14 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | ethanol | 2.57 g | C(C)O | C2H6O
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | ethyl N-(3-methoxy-2-nitrophenyl)carbamate | 7.23 g | COC=1C(=C(C=CC1)NC(OCC)=O)[N+](=O)[O-] | C10H12N2O5
